US06831080B2
Preparation of (±)-1-(2,3-dihydro-benzofuran-5-yl)-ethylamine
A mixture of 5-acetyl-2,3-dihydrobenzo[b]furan, oxime, (Preparation 3, 2.7 g, 16 mmole) in methanol (50 mL), ammonium hydroxide (5 mL) and Raney nickel (3 mL) was hydrogenated on a Parr hydrogenator (H2, 50 psi) for 2 days. The reaction mixture was filtered through Celite and the resultant filtrate was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel using methanol (100%) to give the title compound (1.74 g, 70%) as a brown oil.

reactant | 5-acetyl-2,3-dihydrobenzo[b]furan | C(C)(=O)C1=CC2=C(OCC2)C=C1 | C10H10O2
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | Raney nickel | 3 mL | [Ni] | Ni
product | (±)-1-(2,3-dihydro-benzofuran-5-yl)-ethylamine | 1.74 g, 70% | O1CCC2=C1C=CC(=C2)C(C)N | C10H13NO
